US05633248
3,4-Dihydro-6-methoxy-1'-(6-amino-4,4-diphenylhexyl)spiro[naphthalene-2(1H),2'-piperidine]
To a solution of 3,4-dihydro-6-methoxy-1'-(5-cyano-4,4-diphenylpentyl)spiro[naphthalene-2(1H),2'-piperidine] (0.6 g) in tetrahydrofuran (15 ml) was added lithium aluminum hydride (95 mg) portionwise under ice-cooling and stirring. After completion of dropwise addition, the mixture was heated at 60° C. for 6 hours. To this reaction mixture were serially added water (0.25 ml), 15% sodium hydroxide solution (0.75 ml) and water (0.25 ml) under ice-cooling and stirring and the precipitate which separated out was filtered off. The filtrate was washed with saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and concentrated to dryness to provide the title compound (0.54 g) as light-yellow syrup.

reactant | 3,4-dihydro-6-methoxy-1'-(5-cyano-4,4-diphenylpentyl)spiro[naphthalene-2(1H),2'-piperidine] | 0.6 g | COC=1C=C2CCC3(N(CCCC3)CCCC(CC#N)(C3=CC=CC=C3)C3=CC=CC=C3)CC2=CC1 | C33H38N2O
reactant | lithium aluminum hydride | 95 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.25 ml | O | H2O
reactant | sodium hydroxide | 0.75 ml | [OH-].[Na+]
reactant | water | 0.25 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3,4-Dihydro-6-methoxy-1'-(6-amino-4,4-diphenylhexyl)spiro[naphthalene-2(1H),2'-piperidine] | 0.54 g | COC=1C=C2CCC3(N(CCCC3)CCCC(CCN)(C3=CC=CC=C3)C3=CC=CC=C3)CC2=CC1 | C33H42N2O
